US04177197
Preparation of 2-(4-bromobutyl)furan
A solution of furan (23.8 g, 0.35 mol) in dry tetrahydrofuran (150 ml) was cooled to -15° C. A solution of n-butyl-lithium in hexane (150 ml, 2.2 M, 0.33 mol) was then added dropwise under nitrogen and the reaction mixture was then stirred for a further 21/2 hours at 0° C. The solution thus obtained was subsequently added over a period of about 1 hour under nitrogen to a solution of 1,4-dibromobutane (150 g, 0.7 mol) in dry tetrahydrofuran (225 ml) at -25° C.

reactant | furan | 0.35 mol, 23.8 g | O1C=CC=C1 | C4H4O
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | hexane | 0.33 mol, 2.2 M, 150 ml | CCCCCC | C6H14
reactant | 1,4-dibromobutane | 0.7 mol, 150 g | BrCCCCBr | C4H8Br2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
product | 2-(4-bromobutyl)furan | BrCCCCC=1OC=CC1 | C8H11BrO
